Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.602855401219999
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-2.01233101227
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10].[O:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],1.84168215
[H:10].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.132735342109999
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[O:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.0259129622999999
[C:2]([H:3])#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.65222503665
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],5.55709940151
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-3.1049254858
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.74418901095
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6],2.47078169332
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15],1.7508144025
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],7.839045707789999
[C:1]#[C:2][O:5][C:6]([H:7])([H:8])[C:9][H:10].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-4.11760713019
[C:1]#[C:2][C:4][O:5][H:6].[C:3][O:7][H:8]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[O:7][H:8],-3.45012647335
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],2.00565060825
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-2.6098432110900003
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][H:12]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.22479619901
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.36887784366
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2],2.06178173726
[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.0232238873
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11]>>[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],4.89332730229
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1].[O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.60432909
[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],1.3022130714
[C:2][H:3].[O:1]>>[O:1]=[C:2][H:3],-9.482817894010001
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-0.60852636707
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],1.53496771208
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6],3.9911942517300014
[C:4](#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.32319119113
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.95447215574
